US04292321
A mixture of 9.8 g. (0.040 moles) of 3-[N,N-diphenylamino]-1-chloropropane, 5.7 g. (0.030 moles) of alpha-phenyl-4-piperidine methanol (preparation described in U.S. Pat. No. 3,029,244 to Lyle, Jr. et al, issued Apr. 10, 1962), 4.2 g. (0.040 moles) of sodium carbonate and 0.5 g. of sodium iodide in 90 ml. of toluene is refluxed for about 18 hours. The reaction mixture is cooled, washed with water, and then shaken with dilute hydrochloric acid. The viscous third layer which falls to the bottom is isolated and shaken with ether and dilute caustic. The resulting ether layer is then washed with water, dried, and passed into a column of silica gel. The product is eluted with ethyl acetate and the product fractions are combined, evaporated, and triturated with isopropyl ether. The resulting crystals are isolated by filtration and recrystallized from ethanol to give 2.0 g of 1-[3-(diphenylamino)propyl]-alpha-penyl-4-piperidine methanol, mp. 129.0°-130.5° C. 1-[3-(Diphenylamino)propyl]-alpha-phenyl-4-piperidine methanol shows approximately no inhibition of 3H-haloperidol binding at 10 n moles concentration and approximately 18% inhibition of hu 3H-haloperidol binding at 100 n moles concentration in the 3H-Haloperidol Receptor Binding Assay.

reactant | 3-[N,N-diphenylamino]-1-chloropropane | 0.040 moles | C1(=CC=CC=C1)N(C1=CC=CC=C1)CCCCl | C15H16ClN
reactant | alpha-phenyl-4-piperidine methanol | 0.030 moles | C1(=CC=CC=C1)C(O)C1CCNCC1 | C12H17NO
reactant | sodium carbonate | 0.040 moles | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium iodide | [I-].[Na+]
solvent | ether | CCOCC | C4H10O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-[3-(diphenylamino)propyl]-alpha-penyl-4-piperidine methanol | 2.0 g | C1(=CC=CC=C1)N(CCCN1CCC(CC1)C(O)C1=CC=CC=C1)C1=CC=CC=C1 | C27H32N2O
